US04032652
To a boiling solution of 2.1 g. (0.01 m.) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in 150 ml. of methanol is added 2.4 g. (0.01 m.) of p-(N-benzylcarbamoyloxy)aniline and the resulting mixture is refluxed for one hour. The cooled reaction mixture is filtered and the solid is recrystallized to furnish 5-acetyl-3-[1-(p-N-benzylcarbamoyloxyphenylamino)ethylidene]-4-hydroxy-2H-pyran-2,6(3H)-dione, m.p. 195°-197° C.

reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
reactant | p-(N-benzylcarbamoyloxy)aniline | C(C1=CC=CC=C1)NC(=O)OC1=CC=C(N)C=C1 | C14H14N2O2
solvent | methanol | CO | CH4O
product | 5-acetyl-3-[1-(p-N-benzylcarbamoyloxyphenylamino)ethylidene]-4-hydroxy-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC=C(C=C1)OC(NCC1=CC=CC=C1)=O)O | C23H20N2O7
